US06500866B1
2-(1-Adamantyl)butanimidamide hydrochloride
A suspension of NH4Cl (1.38 g, 26 mmol) in dry toluene (8 mL) at 0° C. was treated dropwise with 2-M trimethylaluminium in toluene (13 mL, 26 mmol), allowed to warm to room temperature and stirred for 2 h. This solution was added to a solution of 2-(1-adamantyl)butanenitrile (0.44 g, 2.2 mmol) in dry toluene (10 mL) and the resulting solution refluxed for 4 days, cooled to room temperature and poured into a slurry of SiO2 (5 g) and CHCl3 (10 mL). The slurry was filtered, the filtrate treated with Na2SO4, concentrated in vacuo and the residue loaded on to the top of a silica column and purified by chromatography [SiO2; EtOAc-MeOH (9:1 to 4:1)] to give the title compound (0.38 g, 68%) as a white solid: mp 223° C. (dec); IR νmax (Nujol)/cm−1 3332, 3157, 3071, 2925, 2852, 1666, 1510, 1462, 1377 and 724; NMR δH (400 MHz, DMSO-d6) 0.81 (3H, t, J 7.2 Hz), 1.39 (2H, m), 1.56-1.69 (11H, br m), 1.96 (3H, m), 2.13 (1H, m) and 9.08 (4H, br m); NMR δC (100 MHz, DMSO-d6) 11.8, 17.0, 27.8, 34.1, 36.2, 39.5, 56.0 and 171.0.

reactant | NH4Cl | 26 mmol, 1.38 g | [NH4+].[Cl-]
reactant | trimethylaluminium | C[Al](C)C
reactant | 2-(1-adamantyl)butanenitrile | 2.2 mmol, 0.44 g | C12(CC3CC(CC(C1)C3)C2)C(C#N)CC | C14H21N
reactant | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 26 mmol, 13 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-Adamantyl)butanimidamide hydrochloride | 0.38 g, 68% | Cl.C12(CC3CC(CC(C1)C3)C2)C(C(N)=N)CC | InChI=1S/C14H24N2.ClH/c1-2-12(13(15)16)14-6-9-3-10(7-14)5-11(4-9)8-14;/h9-12H,2-8H2,1H3,(H3,15,16);1H
